US07884207B2
Isopropyl isocyanate (0.15 mL, 1.45 mmol) was added to a solution of 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanamine (0.50 g, 1.45 mmol) dichloromethane (5 mL) at rt. After 4 h, the reaction was set up on a larger scale with 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanamine (1.50 g, 4.43 mmol). Both reactions were allowed to stir overnight and additional isopropyl isocyanate (0.5 equivalent) was added to each reaction. After stirring another day, the reactions were combined and concentrated under reduced pressure to yield an oil. The oil was triturated with hexane and N-(1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexyl)-N′-isopropylurea was isolated as a white solid (2.23 g, 89%).

reactant | Isopropyl isocyanate | 1.45 mmol, 0.15 mL | C(C)(C)N=C=O | C4H7NO
reactant | 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanamine | 1.45 mmol, 5 mL, 0.50 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)N | C20H26N4O
reactant | 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanamine | 4.43 mmol, 1.50 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)N | C20H26N4O
reactant | isopropyl isocyanate | 0.5 equivalent | C(C)(C)N=C=O | C4H7NO
product | N-(1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexyl)-N′-isopropylurea | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)NC(=O)NC(C)C | C24H33N5O2
